US08193378B2
tert-Butyl 3-cyano-3-(hydroxymethyl)azetidine-1-carboxylate (5.0 g) was dissolved in DCM (100 mL). At 0° C., DAST (3.74 mL) was added thereto, followed by stirring at 0° C. for 3 hours. Three hours later, to the reaction liquid was added an aqueous NaHCO3 solution (100 mL), followed by extraction with DCM (50 mL) three times. The organic layer was washed with brine, dried over MgSO4, and then concentrated. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=100:0 to 50:50) to obtain tert-butyl 3-cyano-3-(fluoromethyl)azetidine-1-carboxylate (1.24 g) as a brown solid.

reactant | tert-Butyl 3-cyano-3-(hydroxymethyl)azetidine-1-carboxylate | 5.0 g | C(#N)C1(CN(C1)C(=O)OC(C)(C)C)CO | C10H16N2O3
reactant | DAST | 3.74 mL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-cyano-3-(fluoromethyl)azetidine-1-carboxylate | 1.24 g | C(#N)C1(CN(C1)C(=O)OC(C)(C)C)CF | C10H15FN2O2
